US08207373B2
Stage 1: (2-nitro-phenyl)-(4-phenoxy-phenyl)-amine
The product (2.03 g) is obtained according to the method of stage 1 of Example 4, by using 3.7 mL of 2-fluoro-nitrobenzene and 7.88 g of 4-phenoxyaniline in the presence of 6.36 g of potassium tert-butanolate in 34 mL of DMSO.

reactant | 2-fluoro-nitrobenzene | 3.7 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-phenoxyaniline | 7.88 g | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | potassium tert-butanolate | 6.36 g | C(C)(C)(C)[O-].[K+]
solvent | DMSO | 34 mL | CS(=O)C | C2H6OS
product | (2-nitro-phenyl)-(4-phenoxy-phenyl)-amine | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C18H14N2O3
